US08497264B2
A solution of 7-bromo-3-chloro-8-fluoro-5H-chromeno[2,3-b]pyridin-5-one (10.00 g, 30.4 mmol) and trimethylsulfonium iodide (6.83 g, 33.5 mmol) in 150 mL DMSO under argon atmosphere was treated with potassium tert-butoxide (3.76 g, 33.5 mmol) at rt. After 75 minutes, trimethylsilylazide (8.08 mL, 60.9 mmol) was added, and the reaction mixture was allowed to stir overnight. The reaction mixture was then diluted with EtOAc and washed with water. The suspension was filtered, and the filtrate was dried over MgSO4 and concentrated under reduced pressure. The crude residue was taken up in 100 mL THF and cooled to 0° C. LAH (1.155 g, 30.4 mmol) was added, and the reaction mixture was allowed to stir for 30 minutes. The ice bath was removed, and the reaction mixture was allowed to stir for an additional 30 minutes. The reaction mixture was then cooled back to 0° C. and quenched with sodium sulfate decahydrate (9.81 g, 30.4 mmol). After stirring for one hour, the reaction mixture was filtered through celite and concentrated under reduced pressure. Purification of the crude residue by column chromatography [0-80% (95:5 EtOAc/MeOH)/DCM] gave (5-amino-7-bromo-3-chloro-8-fluoro-5H-chromeno[2,3-b]pyridin-5-yl)methanol (2.83 g, 7.87 mmol, 25.9% yield).

reactant | 7-bromo-3-chloro-8-fluoro-5H-chromeno[2,3-b]pyridin-5-one | 30.4 mmol, 10.00 g | BrC=1C=C2C(C=3C(=NC=C(C3)Cl)OC2=CC1F)=O | C12H4BrClFNO2
reactant | trimethylsulfonium iodide | 33.5 mmol, 6.83 g | [I-].C[S+](C)C
reactant | potassium tert-butoxide | 33.5 mmol, 3.76 g | CC(C)([O-])C.[K+]
reactant | trimethylsilylazide | 60.9 mmol, 8.08 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | LAH | 30.4 mmol, 1.155 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium sulfate decahydrate | 30.4 mmol, 9.81 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-amino-7-bromo-3-chloro-8-fluoro-5H-chromeno[2,3-b]pyridin-5-yl)methanol | 7.87 mmol, 2.83 g, 25.9% yield | NC1(C2=CC(=C(C=C2OC2=NC=C(C=C21)Cl)F)Br)CO | C13H9BrClFN2O2
